US03952046
0.390 G. of 4'-cyano-4-hydroxy-biphenyl are dissolved in 4.0 ml. of absolute pyridine and reacted with 0.293 g. of chloroformic acid n-propyl ester as in Example 1. The 0.546 g. of brownish crystals obtained according to the procedure described in Example 1 are dissolved in benzene and chromatographed on 40 g. of silica gel. Benzene elutes 0.528 g. of yellowish crystals which are recrystallized from ether-hexane up to constant melting point and clearing point. The pure 4'-cyano-4-biphenylyl n-propyl carbonate obtained melts at 70.2°-70.9° and is liquid crystalline (monotrope) upon cooling to 68.2°. UV (EtOH): ε270 = 26,000.

reactant | 4'-cyano-4-hydroxy-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid n-propyl ester | C(CC)OC(=O)Cl | C4H7ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4'-cyano-4-biphenylyl n-propyl carbonate | C(OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(OCCC)=O | C17H15NO3
